US07851474B2
Step 4. Preparation of 2-benzylspiro[isoindole-1,4′-piperidin]-3(2H)-one
To a solution of 2-benzyl-2′,3′-dihydro-1′H-spiro[isoindole-1,4′-pyridin]-3(2H)-one (3.6 mmol) in HOAc (20 ml) is added 10% Pd on C (100 mg) and the mixture is hydrogenated at 50 psi overnight. The catalyst is filtered and washed with methanol (2×10 ml) and the combined filtrate is evaporated to dryness. The residue is partitioned between aqueous NaHCO3 solution (30 ml) and EtOAc (30 ml). The layers are separated and the aqueous layer is extracted with EtOAc (30 ml). The combined extracts are washed with brine (30 ml), dried over Na2SO4 and evaporated. The resulting title product as a light yellow solid is used in the next step without further purification.

reactant | 2-benzyl-2′,3′-dihydro-1′H-spiro[isoindole-1,4′-pyridin]-3(2H)-one | 3.6 mmol | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C12CCNC=C2)=O | C19H18N2O
solvent | HOAc | 20 ml | CC(=O)O | C2H4O2
catalyst | Pd | [Pd] | Pd
product | 2-benzylspiro[isoindole-1,4′-piperidin]-3(2H)-one | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C12CCNCC2)=O | C19H20N2O
